US08034811B2
4,5-Dimethoxy-2-[(pyridin-4-ylmethyl)-amino]-benzoic acid
Prepared by a similar procedure as described for preparation 1A, starting from 2-amino-4,5-dimethoxybenzoic acid (Aldrich) and pyridine-4-carbaldehyde. 13C-NMR (DMSO-d6) δ 169.4, 154.8, 149.6, 149.0, 147.5, 138.9, 122.1, 114.6, 101.4, 95.5, 56.1, 55.2, 45.0.

reactant | 2-amino-4,5-dimethoxybenzoic acid | NC1=C(C(=O)O)C=C(C(=C1)OC)OC | C9H11NO4
reactant | pyridine-4-carbaldehyde | N1=CC=C(C=C1)C=O | C6H5NO
product | 4,5-Dimethoxy-2-[(pyridin-4-ylmethyl)-amino]-benzoic acid | COC1=CC(=C(C(=O)O)C=C1OC)NCC1=CC=NC=C1 | C15H16N2O4
